US08183293B2
Reduction of Mandelic Acid
Phenyl acetic acid (1.82 Kg, 8.89 mol, 1.1 eq) and nitrile (1.62 Kg, 8.08 mol, 1.0 eq) were dissolved in DMSO (8 L) at 25° C. To this solution was added K2CO3 (2.46 Kg, 17.8 mol, 2.2 eq) in portions to control off gassing. The purple slurry was heated to 60° C. and aged overnight. Upon reaction completion the reaction mixture was inversely quenched in to a mixture of (16 L) of MTBE, (12.9 L) DI water and (3.5 L) methane sulfonic acid slowly. After mixing for 30 minutes the aqueous layer was removed and the organic layer was washed with 16 L of DI water and concentrated to dryness. MeOH (4 L) was added and the solution concentrated to dryness twice, until the residual MTBE was <5% by GC. To the product, MeOH (22 L) and 8.3 mL of methane sulfonic acid were charged, and the batch was heated to 63° C. over 15 hours, until 99% conversion. The reaction was cooled by ramping to 20° C. and the resulting suspension was filtered and washed with MeOH (2×3 L). The solid cake was dried under N2 to provide 74% yield with 101.8 wt % potency and 99.5 A % purity. Chloroisomer content was 2.16 A %. A second recrystallization using 23.6 L of MeOH and heating to 68° C. obtained the desired product in 67% with 100 wt % potency, 99.7 A % purity and 0.74 A % chloroisomer content. Recrystallization process was repeated until <0.5 A % of chloroisomer content was achieved.

reactant | Phenyl acetic acid | 8.89 mol, 1.82 Kg, 1.1 eq | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | K2CO3 | 17.8 mol, 2.46 Kg, 2.2 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 8 L | CS(=O)C | C2H6OS
product | Mandelic Acid | 74% yield | C(C(O)C1=CC=CC=C1)(=O)O | C8H8O3
